US06268338B1
To a mixture of 4′-(n-pentyloxy)-[1,1′:4′,4″-terphenyl]-4-carboxylic acid (10.5 mmol) and dicyclohexylcarbodiimide (10.5 mmol) in ethyl acetate at 0° C. is added pentafluorophenol (11.5 mmol). The mixture is stirred at 25° C. for a period of 18 h, producing a precipitate. The mixture is filtered. The filtrate is washed with water and brine and dried with magnesium sulfate. The solvent is removed in vacuo to obtain pentafluorophenyl 4″-(n-pentyloxy)-[1,1′:4′,4″-terphenyl]4-carboxylate, C30-H23F5O3, M.W.=526.5.

reactant | 4′-(n-pentyloxy)-[1,1′:4′,4″-terphenyl]-4-carboxylic acid | 10.5 mmol | C(CCCC)OC1(CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C24H26O3
reactant | dicyclohexylcarbodiimide | 10.5 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | pentafluorophenol | 11.5 mmol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | pentafluorophenyl 4″-(n-pentyloxy)-[1,1′:4′,4″-terphenyl]4-carboxylate | C(CCCC)OC1(CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C30H25F5O3
